US07915250B2
2,4,6-Trifluorobenzoic acid (643 mg, 3.65 mmol) and 2-fluoro-4-iodoaniline (1.0 g, 4.22 mmol) were taken into acetonitrile (30 mL) followed by addition of lithium amide (290 mg, 12.7 mmol) and the mixture was heated to 60° C. under a nitrogen atmosphere for one hour. On cooling to room temperature the mixture was added to 1 N aqueous hydrochloric acid (100 mL) and the precipitate formed was collected by filtration and washed once with water then hexanes and dried in vacuo to give 2,4-difluoro-6-[(2-fluoro-4-iodophenyl)amino]benzoic acid (849 mg, 59% yield) as a tan solid. 1H-NMR (400 MHz, D6-DMSO): 13.72 (br s, 1H), 9.46 (s, 1H), 7.75 (d, 1H), 7.56 (d, 1H) 7.28 (tr, 1H), 6.73-6.67 (m, 1H), 6.53 (d, 1H).

reactant | 2,4,6-Trifluorobenzoic acid | 3.65 mmol, 643 mg | FC1=C(C(=O)O)C(=CC(=C1)F)F | C7H3F3O2
reactant | 2-fluoro-4-iodoaniline | 4.22 mmol, 1.0 g | FC1=C(N)C=CC(=C1)I | C6H5FIN
reactant | lithium amide | 12.7 mmol, 290 mg | [NH2-].[Li+]
reactant | hydrochloric acid | 1 N, 100 mL | Cl | ClH
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 2,4-difluoro-6-[(2-fluoro-4-iodophenyl)amino]benzoic acid | 849 mg, 59% yield | FC1=C(C(=O)O)C(=CC(=C1)F)NC1=C(C=C(C=C1)I)F | C13H7F3INO2
